US06201027B1
3,5-Dichloro-4-(methylsulfonyl)benzaldehyde
3,5-Dichloro-4-(methylsulfonyl)benzyl alcohol (1.7 g) was dissolved in dichloromethane (35 mL) and then active manganese(IV) oxide (7.0 g) was added and the mixture was stirred for 25 min at 22-28° C. The solid was removed by filtration and the filtrate was evaporated to dryness (yield 1.5 g). 1H-NMR (400 MHz, DMSO-d6 d=3.53 (s, 3H), 8.12 (s, 2H), 10.02 (s, 1H).

reactant | 3,5-Dichloro-4-(methylsulfonyl)benzyl alcohol | 1.7 g | ClC=1C=C(CO)C=C(C1S(=O)(=O)C)Cl | C8H8Cl2O3S
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
catalyst | manganese(IV) oxide | 7.0 g | [O-2].[Mn+4].[O-2]
product | 3,5-Dichloro-4-(methylsulfonyl)benzaldehyde | ClC=1C=C(C=O)C=C(C1S(=O)(=O)C)Cl | C8H6Cl2O3S
